US05206240
6-Methanesulfonamido-3,4-dihydro-1'-[2-(2-chloropyrid-5-yl)ethyl]-spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one
The title compound was prepared from 3,4-dihydro-6-methanesulfonamidospiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one hydrochloride and 2-chloro-5-chloroethylpyridine hydrochloride by a procedure analogous to that described in Example 92, Step B. [The 2-chloro-5-chloroethylpyridine hydrochloride used in this reaction was obtained by treating 6-chloropyrid-3-yl acetic acid (L. A. Carlson, Acta Pharm. Suecica, 9, 411 (1972)) with borane-tetrahydrofuran complex followed by reaction with thionyl chloride.] mp 213°-215° C. Anal. Calc'd. for C21H24ClN3O4S: C, 56.05; H, 5.38; N, 9.34. Found: C, 55.93; H, 5.41; N, 9.20.

reactant | 3,4-dihydro-6-methanesulfonamidospiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one hydrochloride | Cl.CS(=O)(=O)NC=1C=CC2=C(C(CC3(CCNCC3)O2)=O)C1
reactant | 2-chloro-5-chloroethylpyridine hydrochloride | Cl.ClC1=NC=C(C=C1)CCCl
reactant | 6-chloropyrid-3-yl acetic acid | ClC1=CC=C(C=N1)CC(=O)O | C7H6ClNO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 6-Methanesulfonamido-3,4-dihydro-1'-[2-(2-chloropyrid-5-yl)ethyl]-spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one | CS(=O)(=O)NC=1C=CC2=C(C(CC3(CCN(CC3)CCC=3C=CC(=NC3)Cl)O2)=O)C1 | C21H24ClN3O4S
